US08106064B2
3-(5-Cyclopropyl-2,6-dioxo-1,2,3,6-tetrahydro-pyrimidine-4-carbonyl)-5-methyl-benzonitrile (154):
Acetyl bromide (1 mL, excess) was added to 3-(5-cyclopropyl-2,6-dimethoxy-pyrimidine-4-carbonyl)-5-methyl-benzonitrile (31 mg, 0.096 mmol). The reaction was heated to 60° C. for 1 hour. The reaction was concentrated down and purified (silica gel, 20-80% EtOAc/hexane) to give white solid (22 mg, 77%). LC-MS shows 294.0 (M−1). 1H NMR (300 MHz, CDCl3): δ 8.04 (s, 1H), 7.97 (s, 1H), 7.75 (s, 1H), 2.50 (s, 3H), 1.17 (m, 1H), 0.56 (m, 2H), 0.49 (m, 2H).

reactant | Acetyl bromide | 1 mL | C(C)(=O)Br | C2H3BrO
reactant | 3-(5-cyclopropyl-2,6-dimethoxy-pyrimidine-4-carbonyl)-5-methyl-benzonitrile | 0.096 mmol, 31 mg | C1(CC1)C=1C(=NC(=NC1OC)OC)C(=O)C=1C=C(C#N)C=C(C1)C | C18H17N3O3
product | 3-(5-Cyclopropyl-2,6-dioxo-1,2,3,6-tetrahydro-pyrimidine-4-carbonyl)-5-methyl-benzonitrile | 22 mg, 77% | C1(CC1)C1=C(NC(NC1=O)=O)C(=O)C=1C=C(C#N)C=C(C1)C | C16H13N3O3
